US09029359B2
tert-Butyl 5-methylpyridin-3-ylcarbamate.
A solution of 5-methyl-pyridin-3-ylamine (250 mg, 2.31 mmol) and di-tert-butyldicarbonate (505 mg, 2.31 mmol) in THF (5 mL) was stirred at rt for 4 h. The reaction mixture was concentrated in vacuo to afford a residue, which was suspended in EtOAc and washed with aq. NaHCO3 and water. The organic phase was collected, dried (Na2SO4), filtered, and concentrated in vacuo to give an oil, which was purified by column chromatography (silica gel, gradient EtOAc in hexanes) to yield the title intermediate.

reactant | 5-methyl-pyridin-3-ylamine | 2.31 mmol, 250 mg | CC=1C=C(C=NC1)N | C6H8N2
reactant | di-tert-butyldicarbonate | 2.31 mmol, 505 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 5-methylpyridin-3-ylcarbamate | CC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C11H16N2O2
